US08729263B2
Following the representative procedure GENERAL METHOD 1-6 for Suzuki cross-coupling, 3-fluoro-5-hydroxy-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenyl trifluoromethanesulfonate and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate were reacted and the crude product was purified via reverse phase preparative HPLC (10% CH3CN to 30% in H2O). After salt formation, the hydrochloride salt of 3-fluoro-5-(1H-pyrazol-4-yl)-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol hydrate was afforded as a yellow solid (49 mg, 25%). LCMS Rt=0.49 min; [M+H]: 412.3; 1H NMR (400 MHz, MeOD) δ 8.51 (d, J=9.5 Hz, 1H), 8.26 (s, 2H), 7.87 (d, J=9.5 Hz, 1H), 7.21 (dd, J=12.0, 1.5 Hz, 1H), 7.16 (s, 1H), 5.77 (tt, J=10.5, 4.0 Hz, 1H), 2.52 (dd, J=14.0, 4.0 Hz, 2H), 1.93 (dd, J=14.0, 10.5 Hz, 2H), 1.64 (s, 6H), 1.59 (s, 6H).

reactant | 3-fluoro-5-hydroxy-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=C(C(=C1)O)C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C)F)(F)F | C20H23F4N3O5S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)[O-])C
product | 3-fluoro-5-(1H-pyrazol-4-yl)-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol hydrate | O.FC=1C(=C(C=C(C1)C=1C=NNC1)O)C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C | InChI=1S/C22H26FN5O2.H2O/c1-21(2)9-15(10-22(3,4)28-21)30-19-6-5-17(26-27-19)20-16(23)7-13(8-18(20)29)14-11-24-25-12-14;/h5-8,11-12,15,28-29H,9-10H2,1-4H3,(H,24,25);1H2
